US05925661
A) 2-(Benzyloxycarbonylamino)-2-adamantanecarboxylic acid
1.015 g of 2-amino-2-adamantanecarboxylic acid and 6 ml of bis(trimethylsilyl)acetamide in 10 ml of DCM is heated to reflux for one and a half hours. 0.75 ml of benzyloxycarbonyl chloride is added and the mixture is heated at 50° C. for 15 minutes. The reaction medium is cooled to -70° C., decomposition is then effected by adding ice and the mixture is extracted with AcOEt. The organic phase is washed with water (twice) and with brine, dried over MgSO4 and evaporated under vacuum. The product crystallizes in hexane; 1.164 g are obtained.

reactant | 2-amino-2-adamantanecarboxylic acid | 1.015 g | NC1(C2CC3CC(CC1C3)C2)C(=O)O | C11H17NO2
reactant | bis(trimethylsilyl)acetamide | 6 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | benzyloxycarbonyl chloride | 0.75 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(Benzyloxycarbonylamino)-2-adamantanecarboxylic acid | C(C1=CC=CC=C1)OC(=O)NC1(C2CC3CC(CC1C3)C2)C(=O)O | C19H23NO4
